US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-2-quinolone
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-quinolone (100 mg) is deprotected with TFA-CH2Cl2 1:1 (0.5 mL) and transformed to the title product with 4-fluorophenyl isocyanate (50 μL) according to method C.

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-quinolone | 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
reactant | TFA CH2Cl2 | 0.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | 4-fluorophenyl isocyanate | 50 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
product | 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-2-quinolone | ClC1=CC=C2C(=CC(NC2=C1)=O)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C20H18ClFN4O2
